US07632838B2
To a clear solution of tert-butyl 4-(3-chloropyridin-2-yl)piperazine-1-carboxylate in anhydrous dichloromethane (25 mL) was added TFA (25 mL) dropwise. The yellow solution was stirred at room temperature for 2.5 hour. Reaction was complete as determined by TLC. TFA was azeotropped with dichloroethane to give 1-(3-chloropyridin-2-yl)piperazine in quantitative yield (1.265 g).

reactant | tert-butyl 4-(3-chloropyridin-2-yl)piperazine-1-carboxylate | ClC=1C(=NC=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20ClN3O2
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-(3-chloropyridin-2-yl)piperazine | quantitative yield | ClC=1C(=NC=CC1)N1CCNCC1 | C9H12ClN3
